US08975443B2
1-(Biphenyl-2-yl)-2,2,7,7-tetramethylphosphepane
A round bottom flask was charged with 1-(biphenyl-2-yl)-2,2,7,7-tetramethylphosphepan-4-one (520 mg, 1.54 mmol, 1.0 equiv) and purged with nitrogen for 15 minutes. Then nitrogen-sparged diethylene glycol (8.0 mL, 85 mmol, 55 equiv) was added and the flask was equipped with a Claisen adapter and a Dean-Stark trap. The mixture was charged with hydrazine hydrate (0.680 mL, 7.68 mmol, 5 equiv, 55 wt % hydrazine) and potassium hydroxide (431 mg, 7.68 mmol, 5 equiv). The mixture was immersed in an oil bath at 175° C. The temperature of the bath was gradually increased to 210° C. over 30 minutes and kept at that temperature for 7 hours. The reaction mixture was cooled to room temperature under a positive pressure of nitrogen, and the reaction mixture was diluted with water (10 mL) and heptane (30 mL). The phases were partitioned, and the organic layer was collected. The aqueous layer was washed with heptane (2×20 mL). The combined organic fractions were washed once with aqueous saturated sodium chloride (20 mL), dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The crude product was crystallized from a saturated solution of ethanol and isolated by filtration to afford an off-white solid (254 mg, 90 area % by HPLC, 51% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.03-7.95 (m, 1H), 7.47-7.27 (m, 8H), 1.88-1.54 (m, 8H), 1.26 (d, J=4.0 Hz, 6H), 0.96 (s, 3H), 0.92 (s, 3H). 13C NMR (100 MHz, CDCl3) δ ppm 150.8 (d, J=34 Hz), 143.5 (d, J=7 Hz), 136.3 (d, J=3 Hz), 134.8 (d, J=32 Hz), 130.3 (d, J=4 Hz), 130.2 (d, J=6 Hz), 127.9, 126.7, 125.9, 125.3, 45.1 (d, J=18 Hz), 35.2, 34.9, 32.3, 32.0, 28.1 (d, J=3 Hz), 25.6 (d, J=3 Hz). 31P NMR (CDCl3, 202 MHz) δ ppm 14.4 (s). HRMS (TOF-ESI+) calcd for [M, C22H29P]+ 324.2007, found 324.2004.

reactant | 1-(biphenyl-2-yl)-2,2,7,7-tetramethylphosphepan-4-one | 1.54 mmol, 520 mg, 1.0 equiv | C1(=C(C=CC=C1)P1C(CC(CCC1(C)C)=O)(C)C)C1=CC=CC=C1 | C22H27OP
reactant | diethylene glycol | 85 mmol, 8.0 mL, 55 equiv | C(COCCO)O | C4H10O3
reactant | hydrazine hydrate | 7.68 mmol, 0.680 mL, 5 equiv | O.NN
reactant | potassium hydroxide | 7.68 mmol, 431 mg, 5 equiv | [OH-].[K+]
solvent | water | 10 mL | O | H2O
solvent | heptane | 30 mL | CCCCCCC | C7H16
product | 1-(Biphenyl-2-yl)-2,2,7,7-tetramethylphosphepane | 51% yield | C1(=C(C=CC=C1)P1C(CCCCC1(C)C)(C)C)C1=CC=CC=C1 | C22H29P
